US07790749B2
A solution of 2.5 g of toluene-4-sulfonic acid (3R,3aS,6R,6aR)-6-hydroxy-hexahydro-furo[3,2-b]furan-3-yl ester in 30 ml of DMF is heated with 0.8 g of sodium azide under reflux for 2 hours, solvent is distilled off and the distillation residue obtained is dissolved in EtAc and extracted with H2O. The organic phase obtained is dried and solvent is evaporated. (3R,3aR, 6S,6aR)-6-azido-hexahydro-furo[3,2-b]furan-3-ol is obtained.

reactant | toluene-4-sulfonic acid (3R,3aS,6R,6aR)-6-hydroxy-hexahydro-furo[3,2-b]furan-3-yl ester | 2.5 g | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OS(=O)(=O)C2=CC=C(C=C2)C | C13H16O6S
reactant | sodium azide | 0.8 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (3R,3aR, 6S,6aR)-6-azido-hexahydro-furo[3,2-b]furan-3-ol | N(=[N+]=[N-])[C@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C6H9N3O3
